data/rdb19/train.csv
rxn,smiles,ea
5289,[C:1]([C:2]([C:3]([H:4])([c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])[C:22]([C:21]([H:27])([H:28])[H:29])([O:23])[O:24][C:25](=[C:26]([H:31])[H:32])[H:30])([H:14])[H:15])([H:11])([H:12])[H:13]>>[C:1]([C:2]([C:3]([H:4])([c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])[C:22]([C:21]([H:27])([H:28])[H:29])=[O:23])([H:14])[H:15])([H:11])([H:12])[H:13].[O:24][C:25](=[C:26]([H:31])[H:32])[H:30],8.296206027793232
436,[C:1]([O:2][O:3])([H:4])([H:5])[H:6].[C:7]([C:8](=[C:9]([H:16])[H:17])[C:10](=[O:11])[O:12][H:18])([H:13])([H:14])[H:15]>>[C:1]([O:2][O:3][H:16])([H:4])([H:5])[H:6].[C:7]([C:8](=[C:9][H:17])[C:10](=[O:11])[O:12][H:18])([H:13])([H:14])[H:15],33.5802775992197
2695,[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([H:7])[C:8]([C:9]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[C:20]([C:21]([C:22](=[C:23]([H:30])[H:31])[H:29])([H:27])[H:28])([H:24])([H:25])[H:26]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([H:7])([C:8]([C:9]([H:17])([H:18])[H:19])([H:15])[H:16])[C:22]([C:21]([C:20]([H:24])([H:25])[H:26])([H:27])[H:28])([C:23]([H:30])[H:31])[H:29])([H:13])[H:14])([H:10])([H:11])[H:12],18.731311900366563
4982,[C:15](=[C:16]([N:17]([C:18](=[O:19])[H:24])[H:23])[H:22])([H:20])[H:21].[C:1]([C:2]([C:3]([H:4])[O:5][C:6]([H:12])([H:13])[H:14])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:4])([O:5][C:6]([H:12])([H:13])[H:14])[O:19][C:18]([N:17]([C:16](=[C:15]([H:20])[H:21])[H:22])[H:23])[H:24])([H:10])[H:11])([H:7])([H:8])[H:9],26.42936498805648
2069,[C:11]([C:12]([C:13]([C:14]([H:23])([H:24])[H:25])[C:15](=[O:16])[O:17][H:26])([H:21])[H:22])([H:18])([H:19])[H:20].[N:1]([C:2](=[O:3])[C:4](=[C:5]([H:9])[H:10])[H:8])([H:6])[H:7]>>[C:11]([C:12](=[C:13]([C:14]([H:23])([H:24])[H:25])[C:15](=[O:16])[O:17][H:26])[H:22])([H:18])([H:19])[H:20].[N:1]([C:2]([O:3])([C:4](=[C:5]([H:9])[H:10])[H:8])[H:21])([H:6])[H:7],55.565038021828514
2040,[C:11]([C:12]([C:13]([C:14]([H:24])([H:25])[H:26])[C:15](=[O:16])[O:17][C:18]([H:27])([H:28])[H:29])([H:22])[H:23])([H:19])([H:20])[H:21].[N:1]([C:2](=[O:3])[C:4](=[C:5]([H:9])[H:10])[H:8])([H:6])[H:7]>>[C:11]([C:12](=[C:13]([C:14]([H:24])([H:25])[H:26])[C:15](=[O:16])[O:17][C:18]([H:27])([H:28])[H:29])[H:22])([H:19])([H:20])[H:21].[N:1]([C:2](=[O:3])[C:4]([C:5]([H:9])[H:10])([H:8])[H:23])([H:6])[H:7],33.828477630158886
4211,[C:16]([C:17]([C:18]([C:19]([H:29])([H:30])[H:31])[C:20](=[O:21])[O:22][C:23]([H:32])([H:33])[H:34])([H:27])[H:28])([H:24])([H:25])[H:26].[C:1]([O:2][C:3](=[O:4])[C:5](=[C:6]([H:11])[H:12])[C:7]([H:13])([H:14])[H:15])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3](=[O:4])[C:5](=[C:6]([H:11])[H:12])[C:7]([H:14])[H:15])([H:8])([H:9])[H:10].[H:13][C:18]([C:17]([C:16]([H:24])([H:25])[H:26])([H:27])[H:28])([C:19]([H:29])([H:30])[H:31])[C:20](=[O:21])[O:22][C:23]([H:32])([H:33])[H:34],24.082877761218697
2930,[C:16]([C:17]([C:18]([C:19]([H:26])([H:27])[H:28])[C:20]([H:29])([H:30])[H:31])([H:24])[H:25])([H:21])([H:22])[H:23].[C:1]([C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([H:8])([H:9])([H:10])[C:18]([C:17]([C:16]([H:21])([H:22])[H:23])([H:24])[H:25])([C:19]([H:26])([H:27])[H:28])[C:20]([H:29])([H:30])[H:31].[C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12],57.98572413041256
3876,[C:13]([O:14][C:15]([C:16]([H:24])([H:25])[H:26])([C:17]([H:18])[H:19])[H:23])([H:20])([H:21])[H:22].[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7]>>[C:13]([O:14][C:15]([C:16]([H:24])([H:25])[H:26])=[C:17]([H:18])[H:19])([H:20])([H:21])[H:22].[C:1]([H:5])([H:6])([H:7])[H:23].[C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([H:8])[H:9],73.74156895148917
687,[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5]([O:6])([N:7]([H:17])[H:18])[C:21]([C:20]([C:19]([H:26])([H:27])[H:28])([H:29])[H:30])([H:22])[C:23](=[O:24])[O:25][H:31])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[C:21]([C:20]([C:19]([H:26])([H:27])[H:28])([H:29])[H:30])([H:22])[C:23](=[O:24])[O:25][H:31])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[N:7]([H:17])[H:18],14.330887859221548
5383,[C:17]([C:18]([C:19]([H:20])[O:21][C:22](=[O:23])[C:24]([H:30])([H:31])[H:32])([H:28])[H:29])([H:25])([H:26])[H:27].[C:1](=[C:2]([c:3]1[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]1[H:16])[H:11])([H:9])[H:10]>>[C:1](=[C:2]([C:3]1=[C:4]([H:12])[C:5]([H:13])[C:6]([H:14])([C:19]([C:18]([C:17]([H:25])([H:26])[H:27])([H:28])[H:29])([H:20])[O:21][C:22](=[O:23])[C:24]([H:30])([H:31])[H:32])[C:7]([H:15])=[C:8]1[H:16])[H:11])([H:9])[H:10],17.732495969394222
